US07592477B2
Step a) Formation of N-{cyclopentyl[4-(trifluoromethyl)phenyl]methyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 223 (step b) but using cyclopentyl[4-(trifluoromethyl)phenyl]methanone and 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzylamine gave the title compound as a colorless oil (55%). 1H NMR (DMSO-d6, 300 MHz) δ 8.00 (d, 2H), 7.64 (m, 2H), 7.50 (m, 4H), 3.62-3.34 (m, 2H), 2.74 (m, 2H), 2.12-1.85 (m, 2H), 1.70 (m, 2H), 1.60-0.92 (m, 25H), 0.83 (m, 3H). HPLC (Condition A), Rt: 5.42 min (HPLC purity: 98.3%).

reactant | cyclopentyl[4-(trifluoromethyl)phenyl]methanone | C1(CCCC1)C(=O)C1=CC=C(C=C1)C(F)(F)F | C13H13F3O
reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzylamine | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(CN)C=C1 | C20H31N3O
product | N-{cyclopentyl[4-(trifluoromethyl)phenyl]methyl}-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 55% | C1(CCCC1)C(NCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C1=CC=C(C=C1)C(F)(F)F | C33H44F3N3O
